US04489094
4-[[3-(p-Chlorophenyl)propyl]ethylamino]benzoic acid, ethyl ester
A mixture of 1 g. of ethyl 4-[3-(p-chlorophenyl)propylamino]benzoate and 2.37 g. of diethyl sulfate is stirred at 130° C. for 3 hours. The mixture is then diluted with 10 ml. of dichloromethane and 10 ml. of water and adjusted to pH 11 with 10N sodium hydroxide. The dichloromethane layer is drawn off and saved. The aqueous layer is extracted with two 10 ml. portions of dichloromethane. The organic layers are combined, washed with 10 ml. of water, dried over anhydrous magnesium sulfate and evaported to an oil. This oil is chromatographed on a silica gel column, eluting with chloroform:hexane (1:3) giving a colorless liquid which is distilled, giving the desired product as a liquid, boiling point 160° C. (14 mm.).

reactant | ethyl 4-[3-(p-chlorophenyl)propylamino]benzoate | ClC1=CC=C(C=C1)CCCNC1=CC=C(C(=O)OCC)C=C1 | C18H20ClNO2
reactant | diethyl sulfate | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-[[3-(p-Chlorophenyl)propyl]ethylamino]benzoic acid, ethyl ester | ClC1=CC=C(C=C1)CCCN(C1=CC=C(C(=O)OCC)C=C1)CC | C20H24ClNO2
